US07285563B2
N-(3-Methylisoquinolin-8-yl)-N′-[4-(trifluoromethyl)benzyl]urea
A sample of 3-methyl-5-nitroisoquinoline (Description 44) enriched in the nitration byproduct 3-methyl-8-nitroisoquinoline was reduced according to Description 45 and the mixture of amines reacted with [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to the procedure of Description 61. Isomer separation of the products gave the title compound. m/z (ES+) 360 (M+H)+.

reactant | 3-methyl-5-nitroisoquinoline | CC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C10H8N2O2
reactant | 3-methyl-8-nitroisoquinoline | CC=1N=CC2=C(C=CC=C2C1)[N+](=O)[O-] | C10H8N2O2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-(3-Methylisoquinolin-8-yl)-N′-[4-(trifluoromethyl)benzyl]urea | CC=1N=CC2=C(C=CC=C2C1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C19H16F3N3O
